US07705027B2
4-(2,4-Bis-benzyloxy-5-isobutyl-phenyl)-2,4-dioxo-butyric acid ethyl ester (1 eq) was dissolved in ethanol with stirring. Hydroxylamine hydrochloride (1.2 eq) was added and the solution was heated to reflux for 2 hours. The reaction mixture was cooled to room temperature, to give a precipitate. This precipitate was obtained by filtration to give 5-(2,4-Bis-benzyloxy-5-isobutyl-phenyl)-isoxazole-3-carboxylic acid ethyl ester as a white solid.

reactant | 4-(2,4-Bis-benzyloxy-5-isobutyl-phenyl)-2,4-dioxo-butyric acid ethyl ester | 1 eq | C(C)OC(C(CC(=O)C1=C(C=C(C(=C1)CC(C)C)OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O)=O | C30H32O6
reactant | Hydroxylamine hydrochloride | 1.2 eq | Cl.NO
solvent | ethanol | C(C)O | C2H6O
product | 5-(2,4-Bis-benzyloxy-5-isobutyl-phenyl)-isoxazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NOC(=C1)C1=C(C=C(C(=C1)CC(C)C)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C30H31NO5
